US08431695B2
Step 1: Preparation of Ethyl 4-bromo-5-cyano-1H-pyrrole-2-carboxylate
To a cooled (0° C.) solution of ethyl 4-bromo-1H-pyrrole-2-carboxylate (Belanger, P. Tetrahedron Lett. 1979, 20, 2505) (9.50 g, 43.6 mmol) in acetonitrile (200 mL) was added chlorosulfonyl isocyanate (3.87 mL, 43.6 mmol), drop wise. The reaction was allowed to warm to rt and stir for 17 h. The reaction was quenched with the addition of DMF (17 mL) and the reaction was heated (50° C.) for 2 h then cooled to rt and stirred an additional 2 h. The mixture was poured over ice water (500 mL) and was extracted with ethyl acetate (3×250 mL). The combined organics were washed with brine, dried (Na2SO4) and concentrated. The crude material was purified via flash chromatography on silica gel eluting with 10% to 25% ethyl acetate in hexanes to afford 7.88 g (74%) of the desired product. 1H NMR (300 MHz, DMSO-d6) δ 13.77 (br s, 1 H), 7.01 (s, 1 H), 4.28 (q, 2 H), 1.29 (t, 3 H).

reactant | ethyl 4-bromo-1H-pyrrole-2-carboxylate | 43.6 mmol, 9.50 g | BrC=1C=C(NC1)C(=O)OCC | C7H8BrNO2
reactant | chlorosulfonyl isocyanate | 43.6 mmol, 3.87 mL | ClS(=O)(=O)N=C=O | CClNO3S
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | Ethyl 4-bromo-5-cyano-1H-pyrrole-2-carboxylate | 7.88 g, 74% | BrC=1C=C(NC1C#N)C(=O)OCC | C8H7BrN2O2
